US06008407
Preparation of 2,3-difluorotoluene
To a stirred solution of 4-chloro-3-methyl-4,5,5-trifluorocyclohexene of 58.6 g prepared in Example 12 was added 2.5 g of benzyltriethylammonium chloride, and then the reaction mixture was heated to 80° C. followed by slowly adding 240 g of 50% aqueous sodium hydroxide solution for 1 hour. The reaction mixture was stirred for additional 3 hours at 80° C., and then the resultant was purified by steam distillation followed by separating the aqueous layer. The organic layer was dried with calcium chloride, and then 32.3 g of the desired product was collected by fractional distillation as a colorless liquid.

reactant | 4-chloro-3-methyl-4,5,5-trifluorocyclohexene | ClC1(C(C=CCC1(F)F)C)F | C7H8ClF3
reactant | sodium hydroxide | 240 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 2.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2,3-difluorotoluene | FC1=C(C=CC=C1F)C | C7H6F2
